US04963568
Step 6: [1R,8S,9aR]-1-Carbobenzyloxyamino-5,6-dimethoxy-2,3,7,8,9,9a-hexahydro-8-phenyl-phenalene
[1R,8S,9aR]-5,6-Dimethoxy-2,3,7,8,9,9a-hexahydro-8-phenyl-phenalene-1-carboxylic acid (0.8 g, 2.3 mmol), from Step 5, and 0.32 mL (2.3 mmol) of triethylamine were dissolved in 16 mL of toluene and 0.55 mL (2.5 mmol) of diphenylphosphoryl azide was added. The reaction mixture was heated at 80° C. for 2.5 h then 0.5 mL (4.8 mmol) of benzyl alcohol was added and heating was continued at 80° C. for an additional 3 h and at 65° C. for 15 h. The reaction mixture was cooled and concentrated under reduced pressure. The residue was dissolved in 25 mL of diethyl ether and the ether solution was washed with 10 mL of 1N aqueous sodium hydroxide solution and brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel eluted with 20% ethyl acetate in hexanes to qive 0.4 g (39% yield) of the title compound as a white solid. DCI MS: (M+NH4)+ 475, (M+H)+ 458, (M-benzyl+H)+ 367, (M-benzyloxycarbonyl+2H)+ 324. 1H NMR (CDCl3) delta 1.6-1.7 (m, 3H), 2.2-2.35 (m, 2H), 2.6-2.75 (m, 2H), 2.9-3.0 (m, 3H), 3.2-3.3 (m, 1H), 3.73 (s, 3H), 3.82 (s, 3H), 4.65-4.7 (m, 1H), 5.08 (s, 2H), 6.54 (s, 1H), 7.2-7.4 (m, 10H).

reactant | [1R,8S,9aR]-5,6-Dimethoxy-2,3,7,8,9,9a-hexahydro-8-phenyl-phenalene-1-carboxylic acid | 2.3 mmol, 0.8 g | COC=1C=C2CC[C@H]([C@H]3C[C@@H](CC(C1OC)=C32)C3=CC=CC=C3)C(=O)O | C22H24O4
reactant | triethylamine | 2.3 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 2.5 mmol, 0.55 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 4.8 mmol, 0.5 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [1R,8S,9aR]-1-Carbobenzyloxyamino-5,6-dimethoxy-2,3,7,8,9,9a-hexahydro-8-phenyl-phenalene | 0.4 g, 39% yield | C(=O)(OCC1=CC=CC=C1)N[C@@H]1CCC2=CC(=C(C=3C[C@H](C[C@@H]1C23)C2=CC=CC=C2)OC)OC | C29H31NO4
